US08466163B2
4-Bromo-3,5-dimethoxy-2-(4-methoxyphenylethynyl)pyridine (γ):
To a solution of 3,5-dimethoxy-2-(4-methoxyphenylethynyl)pyridine M (120 mg, 0.446 mmol) in dry THF (2.5 ml) at −78° C. was added t-butyllithium (0.49 mmol, 0.30 ml of a 1.6M solution in pentane) and the reaction stirred for 10 minutes. After this time bromine (25 μL, 0.50 mmol) was added neat and the reaction was allowed to warm to room temperature and quenched by the addition of water (10 ml) and ethyl acetate (10 ml). The organic layer was washed with brine (10 ml), dried over MgSO4 and concentrated under reduced pressure. The crude residue was purified by flash chromatography (silica-gel, eluted with hexanes:EtOAc, 3:1) to afford the product as a white solid (45 mg, 29%). 1HNMR (300 MHz, CDCl3) δ 7.99 (s, 1H), 7.52 (d, J=8.7 Hz, 2H), 6.87 (d, J=8.7 Hz, 2H), 4.05 (s, 3H), 4.01 (s, 3H), 3.82 (s, 3H).

reactant | 3,5-dimethoxy-2-(4-methoxyphenylethynyl)pyridine | COC=1C(=NC=C(C1)OC)C#CC1=CC=C(C=C1)OC | C16H15NO3
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | bromine | 0.50 mmol, 25 μL | BrBr | Br2
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 4-Bromo-3,5-dimethoxy-2-(4-methoxyphenylethynyl)pyridine | 45 mg, 29% | BrC1=C(C(=NC=C1OC)C#CC1=CC=C(C=C1)OC)OC | C16H14BrNO3
